US06583089B1
5-Bromo-8-methylthio-3a,4-dihydro-3H-indeno[1,2-c]isoxazol
120 ml of sulfuric acid (98 percent strength) were cooled to 0° C., and 11.2 g (54.8 mmol) of 8-methylthio-3a,4-dihydro-3H-indeno[1,2-c]isoxazol were added a little at a time. 9.2 g (57.5 mmol) of bromine were then added dropwise, and the mixture was stirred at 0° C. for 2 hours. The resulting solution was poured into 2 l of a mixture of water and ice, the mixture was stirred for 1.5 hours and the precipitated solid was filtered off with suction and then washed and dried. This gave 11.4 g (73%) of 5-bromo-8-methylthio-3a,4-dihydro-3H-indeno[1,2-c]isoxazol of a brown solid of m.p. 127-135° C.

reactant | sulfuric acid | 120 ml | S(O)(O)(=O)=O | H2O4S
reactant | 8-methylthio-3a,4-dihydro-3H-indeno[1,2-c]isoxazol | 54.8 mmol, 11.2 g | CSC=1C=CC=C2CC3C(=NOC3)C12 | C11H11NOS
reactant | bromine | 57.5 mmol, 9.2 g | BrBr | Br2
solvent | water | O | H2O
product | 5-Bromo-8-methylthio-3a,4-dihydro-3H-indeno[1,2-c]isoxazol | BrC1=C2CC3C(=NOC3)C2=C(C=C1)SC | C11H10BrNOS
